US08048909B2
5-Bromo-2-methyl-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde
To a solution of 2-methyl-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde (2.00 g) in N,N-dimethylformamide (20 mL) was added N-bromosuccinimide (1.56 g) at 0° C., and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogencarbonate solution, water and saturated brine, dried over anhydrous sodium sulfate, filtrated, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=3:1) to give the title compound as a white solid (yield 2.28 g, 86%).

reactant | 2-methyl-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde | 2.00 g | CC=1N(C=CC1C=O)S(=O)(=O)C1=CC=CC=C1 | C12H11NO3S
reactant | N-bromosuccinimide | 1.56 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 5-Bromo-2-methyl-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde | yield 2.28 g, 86% | BrC1=CC(=C(N1S(=O)(=O)C1=CC=CC=C1)C)C=O | C12H10BrNO3S
